US09315463B2
tert-butyl (trans-4-hydroxycyclohexyl)carbamate
To a solution of (1R,4R)-4-aminocyclohexanol (15 g, 0.13 mol) in acetonitrile (240 mL) was added in portions di-tert-butyl dicarbonate (31.2 g, 0.14 mol). The mixture was stirred overnight at room temperature. The precipitate obtained was washed with hexane/ethyl acetate (3:1) and hexane giving the title compound as a white solid (83%).

reactant | (1R,4R)-4-aminocyclohexanol | 0.13 mol, 15 g | C1CC(CCC1N)O | C6H13NO
reactant | di-tert-butyl dicarbonate | 0.14 mol, 31.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 240 mL | C(C)#N | C2H3N
product | tert-butyl (trans-4-hydroxycyclohexyl)carbamate | O[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H21NO3
